US06605716B2
At room temperature, a three-necked flask fitted with reflux condenser, internal thermometer, dropping funnel and stirrer was charged, under nitrogen protective gas, with 11.1 g of zinc powder (169 mmol) in 70 ml of ethyl acetate. After 3.2 ml of trimethylchlorosilane (25 mmol) had been added, the mixture was heated at 65° C. for 30 min, then left to cool to 60° C., following which, over the course of 6 min, a mixture of 21 g of methyl bromoacetate (137 mmol) and 16 g of octanal (125 mmol) was added dropwise, the temperature being maintained at 65° C. by external cooling. The mixture was then stirred at 55° C. for 5 min, and after cooling to 0° C., was acidified with 75 ml of 2 N hydrochloric acid to a pH of 1 and stirred for 30 min. Excess zinc was removed by filtration and the organic phase separated. The organic phase was then stirred at 0° C. with 80 ml of 1 N hydrochloric acid, and finally washed with 80 ml of saturated sodium hydrogen carbonate solution. Following phase separation, the solvent was removed by distillation under reduced pressure. For the ester hydrolysis, the crude product was treated with a solution of 15.4 g of potassium hydroxide (232 mmol) in 140 ml of water and stirred for 40 min at 50° C., during which a clear solution formed. The solution was extracted with 2×20 ml of toluene, and the aqueous phase was acidified at 0° C. with 100 ml of 2 N hydrochloric acid to a pH of 1 and extracted with 3×20 ml of ethyl acetate. The organic extracts were dried over sodium sulfate and the solvent was removed by distillation under reduced pressure. 3-Hydroxydecanoic acid was obtained in a yield of 21 g (89% of theory). The compound has a melting point of 58° C. following recrystallization from petroleum ether.

reactant | trimethylchlorosilane | 25 mmol, 3.2 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | methyl bromoacetate | 137 mmol, 21 g | BrCC(=O)OC | C3H5BrO2
reactant | octanal | 125 mmol, 16 g | C(CCCCCCC)=O | C8H16O
reactant | hydrochloric acid | 2 N, 75 ml | Cl | ClH
reactant | potassium hydroxide | 232 mmol, 15.4 g | [OH-].[K+]
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 140 ml | O | H2O
catalyst | zinc | 169 mmol, 11.1 g | [Zn] | Zn
product | 3-Hydroxydecanoic acid | OC(CC(=O)O)CCCCCCC | C10H20O3
